US05250546
(1RS,2SR)-5-Methyl-1-phenyl-2-(2-piperidinoethyl)hexan-1-ol dihydrochloride
A mixture of (1RS,2SR)-2-amino-5-methyl-1-phenylhexan-1-ol (1.04 g, 5 mmol) and 1-(2-chloroethyl)piperidine (0.74 g, 5 mmol) was melted at 70° C. in a nitrogen atmosphere. The mixture was then heated at 110° to 120° C. for 3 hours. After being cooled, the reaction mixture was dissolved in water. The solution was basified with 2N-NaOH and then extracted with ether. The ethereal extract was washed twice with water and once with brine, dried over anhydrous sodium sulfate and then evaporated under reduced pressure. The residue was dissolved in acetone (20 ml), followed by addition of concentrated hydrochloric acid (0.74 ml). Precipitated crystals were collected by filtration and washed with acetone. The crystals were recrystallized from ethanol (10 ml)-ether (2 ml) to obtain 0.34 g of the title compound as white crystals (yield: 17%).

reactant | (1RS,2SR)-2-amino-5-methyl-1-phenylhexan-1-ol | 5 mmol, 1.04 g | NC(C(O)C1=CC=CC=C1)CCC(C)C | C13H21NO
reactant | 1-(2-chloroethyl)piperidine | 5 mmol, 0.74 g | ClCCN1CCCCC1 | C7H14ClN
reactant | NaOH | [OH-].[Na+]
solvent | water | O | H2O
product | (1RS,2SR)-5-Methyl-1-phenyl-2-(2-piperidinoethyl)hexan-1-ol dihydrochloride | 0.34 g, yield: 17% | Cl.Cl.CC(CCC(C(O)C1=CC=CC=C1)CCN1CCCCC1)C | InChI=1S/C20H33NO.2ClH/c1-17(2)11-12-19(13-16-21-14-7-4-8-15-21)20(22)18-9-5-3-6-10-18;;/h3,5-6,9-10,17,19-20,22H,4,7-8,11-16H2,1-2H3;2*1H
